US08709994B2
In a 1 L three-necked round-bottom flask equipped with a mechanical stirrer and a reflux condenser were introduced DMF (200 mL), 1-bromo-3-tert-butylbenzene (54.3 g, 0.25 mol), crotyl alcohol (65 mL, 0.76 mol, 3 eq), sodium carbonate (66.2 g, 0.62 mol, 2.5 eq), tetrabutyl ammonium bromide (69.5 g, 0.25 mol, 1 eq), palladium acetate (5.05 g, 7.5 mmol, 3 mol %) and tri-o-tolyl phosphine (7.6 g, 25 mmol, 0.1 eq). After stirring for 1 h at 90-100° C., the reaction mixture was cooled to ambient temperature. The reaction mixture was filtered over celite. The organic phase thus obtained was diluted with MTBE (500 mL) and washed three times with water (500 mL portions), dried over magnesium sulphate and concentrated. The resulting crude product was distilled with a bulb-to-bulb distillation (3 mBar, 121° C.) to give a colourless oil (34.7 g, gc purity 73%). The crude product was chromatographed on a silica gel column with 5% EtOAc in hexane as elution agent giving 3-(3-tert-butylphenyl)butanal (12.3 g, gc purity 99%; yield 39%).

reactant | 1-bromo-3-tert-butylbenzene | 0.25 mol, 54.3 g | BrC1=CC(=CC=C1)C(C)(C)C | C10H13Br
reactant | crotyl alcohol | 0.76 mol, 65 mL, 3 eq | C(C=CC)O | C4H8O
reactant | sodium carbonate | 0.62 mol, 66.2 g, 2.5 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-o-tolyl phosphine | 25 mmol, 7.6 g, 0.1 eq | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | tetrabutyl ammonium bromide | 0.25 mol, 69.5 g, 1 eq | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | MTBE | 500 mL | CC(C)(C)OC | C5H12O
catalyst | palladium acetate | 7.5 mmol, 5.05 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 3-(3-tert-butylphenyl)butanal | 12.3 g, yield 39% | C(C)(C)(C)C=1C=C(C=CC1)C(CC=O)C | C14H20O
